Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with indolent follicular 
lymphoma and a history of chronic degenerative spine disease 
status post lumbar laminectomy in ___, resolving paraplegia in 
the setting of an epidural injection complicated by iatrogenic 
conus medullaris infarction presenting today after being found 
unresponsive by her health care aid. The patient was in her 
normal state of health when she woke up this morning. Per 
patient's home health aid, the patient suddenly lost 
consciousness with her head slumped onto her chest. Per EMS upon 
arrival they had to perform a jaw thrust. She then slowly began 
to regain consciousness and is now alert and oriented. She 
denies any headache, chest pain, abdominal pain. She denies any 
weakness, numbness, tingling. She is unable to provide a 
accurate history as she doesn't remember events leading up to 
LOC.

Of note, patient was seen in ED in ___, with attending note 
stating:
"Per the patient, she was "feeling just fine" and had a syncopal 
episode similar to ones that have occurred since she was ___. She 
emphasized that she had no complaints and wished to return home. 
Her PCT noted that the patient was sitting at the table playing 
cards when she stated she didn't feel well and slumped over; the 
PCT lifted her to the couch where it took 5 minutes for her to 
regain full consciousness. She was noted to be diaphoretic at 
the time. No fall/strike occurred. Her PCT is new and has not 
worked with her before; per the patient's son, these episodes 
happen all the time for her."

In the ED, initial vitals were: 97.1 76 118/56 13 100% RA  
Her labs were notable for a leukocytosis of 11.9, lactate of 
1.7, negative trop x1.
-EKG - left axis, normal intervals, no acute STT changes. Had 
some subtle V2-3 STE on EMS EKGs not present on current.
-A NCHCT showed no acute process.
-CXR interpreted as being consistent with pneumonia
 
Patient was given 1g CTX IV and azithromycin for possible 
pneumonia, and admitted to the floor. 

On the floor, patient is feeling well, with no complaints 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
 
Past Medical History:
- follicular lymphoma (indolent)
- lumbar spine surgery in ___
- Osteoarthritis
- hypertension
- hypothyroidism
- epidural steroid injection c/b conus medullaris infarction
- recurrent vasovagal syncope  
 
Social History:
___
Family History:
Not pertinent to this admission
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: 98, 79, 149/81, 20, 98%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Bilateral lower extremities are cool, no edema  
Neuro: CNII-XII intact, Lower extremities with chronic neuro 
deficits. Unable to move right ankle or toes. L ankle and toe 
motion limited. Ambulates with walker

DISCHARGE PHYSICAL EXAM
Vital Signs: Tm98.2 BP120s-140s/50s-60s HR70s-80s O2 97RA
General: Alert, oriented, no acute distress, frustrated  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: nontender, nonedematous  
Neuro: AOx3, clear and coherent, CNII-XII intact, Lower 
extremities with chronic neuro deficits. Unable to move right 
ankle or toes. L ankle and toe motion limited. Ambulates with 
walker
 
Pertinent Results:
ADMISSION LABS
___ 11:00AM BLOOD WBC-11.0* RBC-4.00 Hgb-12.5 Hct-37.8 
MCV-95 MCH-31.3 MCHC-33.1 RDW-14.7 RDWSD-51.5* Plt ___
___ 11:00AM BLOOD Neuts-59.3 ___ Monos-6.5 Eos-2.8 
Baso-0.4 Im ___ AbsNeut-6.53* AbsLymp-3.21 AbsMono-0.72 
AbsEos-0.31 AbsBaso-0.04
___ 11:00AM BLOOD Glucose-112* UreaN-16 Creat-0.5 Na-134 
K-4.4 Cl-99 HCO3-26 AnGap-13
___ 11:00AM BLOOD cTropnT-<0.01
___ 05:02PM BLOOD cTropnT-<0.01
___ 11:12AM BLOOD Lactate-1.7

DISCHARGE LABS
___ 08:30AM BLOOD WBC-9.5 RBC-4.17 Hgb-13.0 Hct-39.2 MCV-94 
MCH-31.2 MCHC-33.2 RDW-14.7 RDWSD-50.4* Plt ___
___ 08:30AM BLOOD ___ PTT-25.9 ___
___ 08:30AM BLOOD Glucose-80 UreaN-14 Creat-0.6 Na-135 
K-4.1 Cl-100 HCO3-26 AnGap-13
___ 05:02PM BLOOD cTropnT-<0.01
___ 11:00AM BLOOD cTropnT-<0.01
___ 08:30AM BLOOD Calcium-8.9 Phos-2.6*# Mg-2.1
___ 01:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-7.5 Leuks-NEG
___ 01:50PM URINE Color-Yellow Appear-Clear Sp ___

IMAGING AND DIAGNOSTICS
___ NCHCT - 1. No acute intracranial abnormality.

___ CXR - Heart size is normal.  Aorta is tortuous.  Bibasal 
opacities are demonstrated, in particular on the left and might 
represent aspiration versus pneumonia.  No pleural effusion is 
seen.  No pneumothorax is seen.

___ EKG - left axis, normal intervals, no acute STT changes. 
Had some subtle V2-3 STE on EMS EKGs not present on current.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with recurrent vasovagal 
syncope, indolent follicular lymphoma, and a history of chronic 
degenerative spine disease status post lumbar laminectomy in 
___, resolving paraplegia in the setting of an epidural 
injection complicated by iatrogenic conus medullaris infarction, 
who presented after being found unresponsive by her health care 
aid.
 
#Syncope: Likely an episode of patient's recurrent vasovagal 
syncope that she reports having since the age of ___.  A 
non-contrast head CT, cardiac workup (EKG, tele), and infectious 
workup were normal. It was felt that this event was similar to 
previous events the patient occasionally will have, and so she 
was discharged home after being observed on telemetry overnight. 
Patient was seen by physical therapy and deemed safe to go home. 
 Plan was discussed with her PCP who said she has had extensive 
work-up in the past at ___ for these sxs, ultimately resulting 
in a diagnosis of vasovagal syncope.  She was noted to have a 
___ SEM which was not previously noted and would consider outpt 
echo for further evaluation.

# History of spinal cord infarction, complicated by neuropathic 
pain: Continued home gabapentin and cymbalata. 
 
# Hypertension: Continued home losartan.

#Hypothyroidism: Continued home levothyroxine.

#PNA: patient had recently been discharged from a ___ 
hospital with a diagnosis of PNA.  She was instructed to 
complete her course of antibiotics on discharge.  She had no 
respiratory complaints this admission.

TRANSITIONAL ISSUES:
- Patient noted to have a I/VI systolic RSB murmur on exam, 
further workup (ECHO) per PCP if indicated
- patient was on antibiotics as an outpatient for a pneumonia 
that she was being treated for in ___ and should finish this 
course as initially prescribed to her 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Fish Oil (Omega 3) 1200 mg PO DAILY 
5. DULoxetine 60 mg PO DAILY 
6. Calcium Carbonate 500 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO DAILY 
2. DULoxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Losartan Potassium 25 mg PO DAILY 
6. Fish Oil (Omega 3) 1200 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Vasovagal episode

Secondary Diagnoses
- History of spinal cord infarction
- hypertension
- hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being a part of your care team at ___ 
___ ___.  You were admitted after you fainted. 
The tests we did to look at your heart and to look for any signs 
of infection were normal, and so we agree with you that this is 
likely the same as the events you have had before. After staying 
with us overnight you were able to go home.

We think you should see your doctor in the next week or two. 
Please see below for additional information about your 
appointments.

Again, it was very nice to meet you, and we wish you the best.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___